US07674803B2
tert-Butyl 4-(4-ethoxycarbonylthiazol-2-yl)piperidine-1-carboxylate
tert-Butyl 4-(aminocarbothioyl)tetrahydropyridine-1(2H)-carboxylate (May-bridge) (85 mmol; 20.8 g) is dissolved in 250 ml of dimethylformamide and placed at 5° C. Ethyl bromopyruvate (1 eq.; 85 mmol; 16.6 g) dissolved in 50 ml of dimethylformamide is added dropwise. The reaction medium is stirred overnight and excess triethylamine is then added dropwise. The reaction medium is evaporated and the residual brown oil is taken up in ethyl acetate and washed with water (twice) and then with saturated sodium chloride solution (twice). The organic phase is dried over sodium sulfate and evaporated to dryness. The crude product is chromatographed on silica, eluting with dichloromethane to dichloromethane/3% methanol, to give 20.5 g of the expected product in the form of oily crystals. TLC: 1/1 ethyl acetate/hexane: Rf=0.55

reactant | tert-Butyl 4-(aminocarbothioyl)tetrahydropyridine-1(2H)-carboxylate | 85 mmol, 20.8 g | NC(=S)C1CCN(CC1)C(=O)OC(C)(C)C | C11H20N2O2S
reactant | Ethyl bromopyruvate | 85 mmol, 16.6 g, 1 eq. | BrCC(C(=O)OCC)=O | C5H7BrO3
reactant | triethylamine | C(C)N(CC)CC | C6H15N
solvent | dimethylformamide | 250 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
product | tert-Butyl 4-(4-ethoxycarbonylthiazol-2-yl)piperidine-1-carboxylate | 20.5 g | C(C)OC(=O)C=1N=C(SC1)C1CCN(CC1)C(=O)OC(C)(C)C | C16H24N2O4S
